US04398939
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-4-nitrothiophene-2-sulfonamide
To 1.4 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine suspended in 25 ml of anhydrous acetonitrile with stirring at ambient temperature was added 2.4 g of 4-nitrothiophene-2-sulfonyl isocyanate. After stirring for sixteen hours at ambient temperature, the product which was present as a precipitate was removed by filtration and washed with 1-chlorobutane. It melted at 188° with decomposition and showed infrared absorption spectrum peaks at 1740, 1600 and 1560 cm-1 consistent for the desired aminocarbonylsulfonamide structure.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.4 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 4-nitrothiophene-2-sulfonyl isocyanate | 2.4 g | [N+](=O)([O-])C=1C=C(SC1)S(=O)(=O)N=C=O | C5H2N2O5S2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-4-nitrothiophene-2-sulfonamide | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C=1SC=C(C1)[N+](=O)[O-] | C10H10N6O6S2
